US08710049B2
F: 3-Methyl-1-(4-nitrophenyl)piperidine-3-carboxamide
To a solution of 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylic acid (2.65 g, 10.03 mmol) in THF (45 ml) cooled at −5° C. (ice/NaCl bath) was added Et3N (1.537 mL, 11.03 mmol), followed by dropwise addition of isobutyl carbonochloridate (1.443 mL, 11.03 mmol). After addition, the resulting yellow suspension was stirred at −3° C. for 75 min and then 6.25 mL of a 28% aqueous ammonium hydroxide solution (50 mmol, 5.0 equiv.) was added. The reaction mixture was stirred at ˜0° C. for 1.5 hrs. The reaction was quenched with water, the resulting mixture (pH>10) was extracted with EtOAc (3×). The combined organic phase was washed with water (2×), saturated aqueous NaCl (2×), dried over Na2SO4, filtered and concentrated. The crude product was crystallized from EtOAc to give the title compound, 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxamide (777 mg, 2.95 mmol, 29.4% yield), as a brown solid. Anal. Calcd. for C13H17N3O3 m/z 263.2, found: 264.2 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 8.20-8.02 (m, 2H), 7.06-6.85 (m, 2H), 3.91 (d, J=13.19 Hz, 1H), 3.64-3.49 (m, 1H), 3.16 (ddd, J=12.64, 8.25, 4.40 Hz, 1H), 3.09 (s, 2H), 3.06 (d, J=13.19 Hz, 1H), 2.09 (d, J=13.74 Hz, 1H), 1.91-1.72 (m, 2H), 1.62-1.48 (m, 1H), 1.25 (s, 3H).

reactant | 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxylic acid | 10.03 mmol, 2.65 g | CC1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H16N2O4
reactant | Et3N | 11.03 mmol, 1.537 mL | CCN(CC)CC | C6H15N
reactant | isobutyl carbonochloridate | 11.03 mmol, 1.443 mL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | ammonium hydroxide | 50 mmol, 5.0 equiv. | [OH-].[NH4+]
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 3-methyl-1-(4-nitrophenyl)piperidine-3-carboxamide | 2.95 mmol, 777 mg, 29.4% yield | CC1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)N | C13H17N3O3
